US06323155B1
A solution of 3-chloro-4-trifluoromethoxybenzoic acid (4.15 g) in dry tetrahydrofuran was treated with n-butyl lithium (15.1 ml of 2.5M solution in hexanes) at −78° C. under an inert atmosphere. After stirring overnight at this temperature, a solution of 1,2-dibromotetrachloroethane (839 g) in tetrahydrofuran was added. After 30 minutes, the solution was allowed to slowly warm to ambient temperature, then treated with 2M hydrochloric acid. The mixture was extracted with ether, the ethereal solution itself extracted with sodium bicarbonate solution and the latter acidified with dilute hydrochloric acid. This solution was extracted with ether and evaporated in vacuo to give 2-bromo-3-chloro-4-trifluoromethoxybenzoic acid (5.5 g) as a brown solid, NMR (CDCl3) 7.3(m,1H), 7.8(d,1H).

reactant | 3-chloro-4-trifluoromethoxybenzoic acid | 4.15 g | ClC=1C=C(C(=O)O)C=CC1OC(F)(F)F | C8H4ClF3O3
reactant | n-butyl lithium | 2.5M, 15.1 ml | C(CCC)[Li]
reactant | 1,2-dibromotetrachloroethane | 839 g | BrC(C(Br)(Cl)Cl)(Cl)Cl | C2Br2Cl4
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-bromo-3-chloro-4-trifluoromethoxybenzoic acid | 5.5 g | BrC1=C(C(=O)O)C=CC(=C1Cl)OC(F)(F)F | C8H3BrClF3O3
